US08003785B2
A mixture of 0.050 g (0.11 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl-amino)-3-methoxy-benzoic acid (I-22), 0.048 g (0.12 mmole) of N-[(dimethylamino)-1H-1,2,3-triazolo[4,5-b]pyridine-1-ylmethylene]-N-methylmethanaminiumhexafluorophosphate N-oxide, 0.037 g (0.28 mmole) of ethyldiisopropyl amine, 0.016 g (0.17 mmole) of pyridine-4-ylamine and 0.5 ml of dichloromethane was stirred for 2 hours and then concentrated under reduced pressure. The residue was dissolved in 0.5 ml of methanol, and then precipitated by the addition of water. The residue was washed three times with water and then purified by chromatography on reverse phase silica gel, eluting with acetonitrile-water to give 0.01 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-pyridin-3-yl-benzamide (I-130)

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl-amino)-3-methoxy-benzoic acid | 0.11 mmole, 0.050 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | ethyldiisopropyl amine | 0.28 mmole, 0.037 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | pyridine-4-ylamine | 0.17 mmole, 0.016 g | N1=CC=C(C=C1)N | C5H6N2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-pyridin-3-yl-benzamide | 0.01 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC=1C=NC=CC1)C=C2)OC | C26H27F2N7O3
